US06939870B2
2-{4-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-yl]-butyl}-2H-[1,2,4]triazolo[4,3-a]pyridin-3-one was prepared by reacting 2-(4-Chloro-butyl)-2H-[1,2,4]triazolo[4,3-a]pyridin-3-one (225 mg, 1 mmol) and 3-(1,2,3,6-Tetrahydro-pyridin-4-yl)-1H-indole (198 mg, 1 mmol) by adopting the procedure as outlined in Experimental 24. Yield: 87 mg (22%) compound was isolated as pale yellow solid.

reactant | 2-(4-Chloro-butyl)-2H-[1,2,4]triazolo[4,3-a]pyridin-3-one | 1 mmol, 225 mg | ClCCCCN1N=C2N(C=CC=C2)C1=O | C10H12ClN3O
reactant | 3-(1,2,3,6-Tetrahydro-pyridin-4-yl)-1H-indole | 1 mmol, 198 mg | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
product | 2-{4-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-yl]-butyl}-2H-[1,2,4]triazolo[4,3-a]pyridin-3-one | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCCN1N=C2N(C=CC=C2)C1=O | C23H25N5O
